US07544748B2
Ethyl 2-butyl-3-tert-butyl-3-oxo-propionate
A solution of diisopropylamine (22.5 mL) in anhydrous tetrahydrofuran (THF, 100 mL) was treated dropwise with 1.6 M solution of butyl lithium in hexane (100 mL) at 20° C. under nitrogen atmosphere, stirred at this temperature for additional 30 min, then cooled down to −70° C., and treated dropwise during 30 min with a solution of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone (DMPU, 18.6 g) and ethyl hexanoate (21.1 g) in THF (100 mL). Upon completion of the addition, the reaction mixture was stirred for 45 min at −70° C. and after that treated dropwise at the same temperature with a solution of 2,2-dimethyl-propionyl chloride (19.3 g) in THF (50 mL). The mixture was allowed to slowly warm-up to room temperature and stirred at this temperature overnight. Finally the reaction mixture was quenched by pouring onto a mixture of ice and 10% aqueous hydrochloric acid. The formed organic phase was separated and the aqueous phase was extracted with chloroform. The combined organic phases were thoroughly washed with brine to remove DMPU, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator, and distilled in vacuum to give 21.0 g (63%) of the title compound.

reactant | diisopropylamine | 22.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | ethyl hexanoate | 21.1 g | C(CCCCC)(=O)OCC | C8H16O2
reactant | 2,2-dimethyl-propionyl chloride | 19.3 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | 100 mL | CCCCCC | C6H14
solvent | THF | 100 mL | O1CCCC1 | C4H8O
solvent | THF | 50 mL | O1CCCC1 | C4H8O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 18.6 g | CN1C(N(CCC1)C)=O | C6H12N2O
product | Ethyl 2-butyl-3-tert-butyl-3-oxo-propionate | 21.0 g, 63% | C(CCC)C(C(=O)OCC)C(=O)C(C)(C)C | C13H24O3
